US07291643B2
4-Bromoaniline (0.86 g, 5.0 mmol) was dissolved in CH2Cl2 (15 mL), pyridine (0.5 mL) was added, and 3-chloropropanesulfonyl chloride (0.6 mL, 5.0 mmol) was added. The mixture was stirred for 4 hours, diluted with ethyl acetate, and then washed with water, 2N HCl, brine, dried over MgSO4, and concentrated. The crude product was purified via Isco chromatography (the Redisep® column, silica, gradient 5-60% ethyl acetate in hexane) to afford 1.2 g (77%) N-(4-bromophenyl)-3-chloropropane-1-sulfonamide.

reactant | 4-Bromoaniline | 5.0 mmol, 0.86 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-chloropropanesulfonyl chloride | 5.0 mmol, 0.6 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-bromophenyl)-3-chloropropane-1-sulfonamide | 1.2 g, 77% | BrC1=CC=C(C=C1)NS(=O)(=O)CCCCl | C9H11BrClNO2S
